US06747023B1
Methyl 5-benzimidazolecarboxylate hydrochloride
Under ice cooling, thionyl chloride (2.30 ml) was added dropwise to methanol (50 ml). Then, 5-benzimidazolecarboxylic acid (5.00 g) was added, followed by heating under reflux for 5 hours. The reaction mixture was distilled under reduced pressure. The residue was pulverized in diethyl ether, followed by collection through filtration, whereby colorless crystals (6.36 g, 97%) was obtained.

reactant | thionyl chloride | 2.30 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 5-benzimidazolecarboxylic acid | 5.00 g | N1=CNC2=C1C=CC(=C2)C(=O)O | C8H6N2O2
reactant | methanol | 50 ml | CO | CH4O
product | Methyl 5-benzimidazolecarboxylate hydrochloride | 6.36 g, 97% | Cl.N1=CNC2=C1C=CC(=C2)C(=O)OC | InChI=1S/C9H8N2O2.ClH/c1-13-9(12)6-2-3-7-8(4-6)11-5-10-7;/h2-5H,1H3,(H,10,11);1H
